US08975400B2
5-formyl-2-(4-(trifluoromethyl)phenoxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 4-(trifluoromethyl)phenol.

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 4-(trifluoromethyl)phenol | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
product | 5-formyl-2-(4-(trifluoromethyl)phenoxy)benzonitrile | C(=O)C=1C=CC(=C(C#N)C1)OC1=CC=C(C=C1)C(F)(F)F | C15H8F3NO2
